US09145392B2
Step 4: tert-butyl 3-(2-(1-(6-amino-5-cyanopyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-1-yl)pyrrolidine-1-carboxylate
3-[4-(4-fluoro-3-trifluoromethyl-phenyl)-2-piperidin-4-yl-imidazol-1-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (109.27 mg; 0.23 mmol; 1.00 eq.) in acetonitrile 2 ml was added ethyl-diisopropyl-amine (0.08 ml; 0.45 mmol; 2.00 eq.) and 4-amino-6-chloro-pyrimidine-5-carbonitrile (35.00 mg; 0.23 mmol; 1.00 eq.), the reaction mixture was stirred at RT for 1 hr, lc-ms showed desired as major product, removed off solvent, got residue, which as title compound directly using for the next step reaction.

reactant | 3-[4-(4-fluoro-3-trifluoromethyl-phenyl)-2-piperidin-4-yl-imidazol-1-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.23 mmol, 109.27 mg, 1.00 eq. | C(C)(C)(C)OC(=O)N1CC(CC1)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCNCC1 | C24H30F4N4O2
reactant | ethyl-diisopropyl-amine | 0.45 mmol, 0.08 ml, 2.00 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-6-chloro-pyrimidine-5-carbonitrile | 0.23 mmol, 35.00 mg, 1.00 eq. | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | tert-butyl 3-(2-(1-(6-amino-5-cyanopyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-1-yl)pyrrolidine-1-carboxylate | NC1=C(C(=NC=N1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CN(CC1)C(=O)OC(C)(C)C)C#N | C29H32F4N8O2
